US08138345B2
Preparation of Biphenyl-2-ylcarbamic Acid 1-(2-{[4-(4-Formylphenylcarbamoyl)butyl]methylcarbamoyl}ethyl)piperidin-4-yl Ester
A stirred mixture of biphenyl-2-ylcarbamic acid 1-(2-{[4-(4-(1,3-dioxolan-2-yl)phenylcarbamoyl)butyl]methylcarbamoyl}ethyl)piperidin-4-yl ester (3.04 g, 4.84 mmol) in aqueous hydrochloric acid (1 M, 10 mL) and acetonitrile (10 mL) was heated at 50° C. for 2 h. The reaction mixture was concentrated under reduced pressure and saturated aqueous sodium bicarbonate solution and DCM were added to the residue. The layers were separated and the organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure to give the title compound (2.83 g, 100% yield).

reactant | biphenyl-2-ylcarbamic acid 1-(2-{[4-(4-(1,3-dioxolan-2-yl)phenylcarbamoyl)butyl]methylcarbamoyl}ethyl)piperidin-4-yl ester | 4.84 mmol, 3.04 g | O1C(OCC1)C1=CC=C(C=C1)NC(=O)CCCCN(C(=O)CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)C | C36H44N4O6
solvent | hydrochloric acid | 1 M, 10 mL | Cl | ClH
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | Biphenyl-2-ylcarbamic Acid 1-(2-{[4-(4-Formylphenylcarbamoyl)butyl]methylcarbamoyl}ethyl)piperidin-4-yl Ester | 2.83 g, 100% yield | C(=O)C1=CC=C(C=C1)NC(=O)CCCCN(C(=O)CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)C | C34H40N4O5
